US07476399B2
4-Methoxy-3-methyl-N-(1-pyridin-2-yl-butyl)-benzamide
Prepared in a similar manner to example 4 using 4-methoxy-3-methyl-benzoic acid and 1-pyridin-2-yl-butylamine. 1H NMR (500 MHz, CDCl3): δ 0.91-0.92 (t, 3H), 1.25-1.3 (m, 2H, 1.85-1.9 (m, 2H), 3.86 (s, 3H), 5.25-5.3 (m, 1H), 6.80-6.82 (d, 1H), 7.2-7.3 (m, 2H), 7.42-7.44 (d, 1H), 7.6-7.7 (m, 3H), 8.6 (d, 1H). MS (M+H, 299.1).

reactant | 4-methoxy-3-methyl-benzoic acid | COC1=C(C=C(C(=O)O)C=C1)C | C9H10O3
reactant | 1-pyridin-2-yl-butylamine | N1=C(C=CC=C1)C(CCC)N | C9H14N2
product | 4-Methoxy-3-methyl-N-(1-pyridin-2-yl-butyl)-benzamide | COC1=C(C=C(C(=O)NC(CCC)C2=NC=CC=C2)C=C1)C | C18H22N2O2
